US04311700
6-Methyl-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one
34.8 g (0.1 mol) of 5-ethoxycarbonyl-4-(2-methylaminoanilino)-2-phenylpyrimidine are added to a freshly prepared, hot solution of 6.8 g (0.296 mol) of sodium in 99 ml of absolute ethanol, while stirring. The orange-colored suspension which has been formed thereby is heated for a further 30 minutes under reflux and is allowed to cool; 19.7 ml of glacial acetic acid and 19.4 ml of water are added and the mixture is stirred for a further 30 minutes. The yellow precipitate is filtered off, washed with water and dried in vacuo; yield: 26 g, with m.p. 227° C. (from ethanol).

reactant | 5-ethoxycarbonyl-4-(2-methylaminoanilino)-2-phenylpyrimidine | 0.1 mol, 34.8 g | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=CC=C1)NC1=C(C=CC=C1)NC | C20H20N4O2
reactant | sodium | 0.296 mol, 6.8 g | [Na] | Na
reactant | acetic acid | 19.7 ml | C(C)(=O)O | C2H4O2
reactant | water | 19.4 ml | O | H2O
solvent | ethanol | 99 ml | C(C)O | C2H6O
product | 6-Methyl-2-phenyl-5,6-dihydropyrimido[4,5-b][1,5]benzodiazepin-5-one | CN1C(C2=C(NC3=C1C=CC=C3)N=C(N=C2)C2=CC=CC=C2)=O | C18H14N4O
